US04138441
Synthesis of tertiary-butyl cyclopentadiene
In runs 1 through 10, five ml. of 0.025M dimethylaluminum cyclopentadiene (Me2AlCPD) in chlorobenzene was dispensed by pipette into 20 × 150 mm test tubes. The tubes were then capped with screw caps fitted with self-sealing gaskets and TeflonR liners. The reaction tubes were placed in a constant temperature bath. After allowing sufficient time for the tubes and contents to attain bath temperature, 0.12 M tert.-butyl chloride solution in chlorobenzene (tBuCl) already at bath temperature was added by syringe fitted with hypodermic needle. After the desired time, the reactions were quenched by the addition of normal-butyl alcohol.

reactant | dimethylaluminum cyclopentadiene | 0.025M | C1=CC=CC1.C[Al]C
reactant | tert.-butyl chloride | 0.12 M | C(C)(C)(C)Cl | C4H9Cl
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | tertiary-butyl cyclopentadiene | C(C)(C)(C)C1=CC=CC1 | C9H14
